US05135930
985 mg (4 mmol) of (9bR*,13aR*)-2,7-dioxo-1,4,5,7,8,10,11,12,13,13a-decahydro-2H-pyrrolo[2',1':3,4]pyrazino[2,1-i]indole, dissolved in 40 ml of tetrahydrofuran, are hydrogenated with hydrogen in the presence of 98 mg of PtO2 at room temperature under normal pressure until the absorption of hydrogen ceases. The catalyst is filtered off and the filtrated is concentrated by evaporation in vacuo. The resulting oily crude product is crystallised from ethyl acetate. In this manner (9aR*,9bR*,13aR*)-2,7-dioxo-1,4,5,7,8,9,9a,10,11,12,13,13a-dodecahydro-2H-pyrrolo[2',1':3,4]pyrazino[2,1-i]-indole is obtained which melts at 135° to 136°. The mother liquor is concentrated by evaporation in vacuo and chromatographed on silica gel (0.040-0.063 mm) with trichloromethane and trichloromethane/methanol (99:1) as eluants. There is thus obtained (9aR*,9bS*,13aS*)-2,7-dioxo-1,4,5,7,8,9,9a,10,11,12,13,13a-dodecahydro-2H-pryrrolo[2',1':3,4]pyrazino[2,1-i]indole, which is stereoisomeric as regards the relative configuration of the 9a C-atom, in the form of an oil which is crystallised from ethyl acetate and then melts at 177°-179°.

reactant | (9bR*,13aR*)-2,7-dioxo-1,4,5,7,8,10,11,12,13,13a-decahydro-2H-pyrrolo[2',1':3,4]pyrazino[2,1-i]indole | 4 mmol, 985 mg | O=C1N2[C@@]3(CCCC[C@@H]3C1)C=1N(CC2)C(CC1)=O | C14H18N2O2
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | (9aR*,9bR*,13aR*)-2,7-dioxo-1,4,5,7,8,9,9a,10,11,12,13,13a-dodecahydro-2H-pyrrolo[2',1':3,4]pyrazino[2,1-i]-indole | O=C1N2[C@@]3(CCCC[C@@H]3C1)[C@@H]1N(CC2)C(CC1)=O | C14H20N2O2
